US06730792B2
Oxalyl chloride (18.1 ml, 207 mmol) is added slowly to dimethylformamide cooled to −25° C. The resulting mixture is cooled to −45° C. and 2-carboxamido-5-chloropyridine (25 g, 160 mmol) is added portionwise. The reaction stirred for 30 minutes and pyridine (14.2 ml, 176 mmol) is added. The reaction stirred for 5 hours, 20 minutes and is poured into 1.5 L of water and 1 L of ethyl acetate is added. The phases are separated and the aqueous layer is extracted with 100 ml of ethyl acetate. The combined organics are washed with water (850 ml and 350 ml), saturated aqueous sodium chloride (100 ml), dried over sodium sulfate, filtered and concentrated in vacuo to give 19.95 g (92%) of 2-cyano-5-chloropyridine which is used without further purification.

reactant | Oxalyl chloride | 207 mmol, 18.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | pyridine | 176 mmol, 14.2 ml | N1=CC=CC=C1 | C5H5N
reactant | water | 1.5 L | O | H2O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 2-cyano-5-chloropyridine | 19.95 g, 92% | C(#N)C1=NC=C(C=C1)Cl | C6H3ClN2
